US06358971B1
2-Amino-3-(2-fluoro-4-trifluoromethylphenyl)-6-benzoyl-imidazo[1,2-a]pyridine
The 2-trifluoroacetamido-3-(2-fluoro-4-trifluoromethylphenyl)-6-benzoyl-imidazo[1,2-a]pyridine (8.03 g, 16.2 mmol) was converted to product in a manner substantially analogous to Example 67 to yield 6.00 g. (92.8%). EA, MS(FD).

reactant | 2-trifluoroacetamido-3-(2-fluoro-4-trifluoromethylphenyl)-6-benzoyl-imidazo[1,2-a]pyridine | 16.2 mmol, 8.03 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=C(C=C(C=C1)C(F)(F)F)F)(F)F | C23H12F7N3O2
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-Amino-3-(2-fluoro-4-trifluoromethylphenyl)-6-benzoyl-imidazo[1,2-a]pyridine | NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=C(C=C(C=C1)C(F)(F)F)F | C21H13F4N3O
